US07842688B2
i) Methyl 2-(3-methyl-but-2-enoylamino)benzoate
A solution of 12.5 ml of 3-methylbut-2-enoyl chloride in 110 ml of toluene is added dropwise at room temperature to a solution of 13.4 ml of methyl 2-aminobenzoate and 21.8 ml of triethylamine in 110 ml of toluene. After 30 minutes, the reaction mixture is diluted with toluene, washed with 1N HCl (2×), dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.34 (1:10 EtOAc-heptane); Rt=4.78.

reactant | 3-methylbut-2-enoyl chloride | 12.5 ml | CC(=CC(=O)Cl)C | C5H7ClO
reactant | methyl 2-aminobenzoate | 13.4 ml | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | triethylamine | 21.8 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-(3-methyl-but-2-enoylamino)benzoate | CC(=CC(=O)NC1=C(C(=O)OC)C=CC=C1)C | C13H15NO3
